US07569566B2
5-(3-Pyridinyl)-3-(trifluoromethyl)benzenamine
A stirred solution of 3-amino-5-bromo-benzotrifluoride (Apollo, England; 1.12 g, 5 mmol) and 3-(tri-n-butylstannyl)pyridine (Maybridge Chemical Co. Ltd., England; 2.0 g, 5.4 mmol) in xylene (30 mL) was purged with argon for 10 minutes at 20° C. Tetrakis(triphenylphosphine)-palladium (0) (1.16 g, 1.0 mmol) is then added and the resulting mixture is heated at 140° C. for 36 hours under an argon atmosphere. The mixture is then cooled, treated with an aqueous solution of sodium hydroxide (100 mL of 0.1 M) and purged with air for 2 hours. The resulting mixture is then diluted with ethylacetate (200 mL) and filtered. The organic phase is then sequentially washed with water (2×80 mL) and saturated aqueous sodium chloride (1×80 mL), dried (MgSO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by column chromatography (silica gel, eluent ethyl acetate) to afford the title compound as a brown oil. 1H-NMR (400 MHz, DMSO-d6, δ): 5.73 (br s, 2H), 6.83 (dd, 1H), 6.99 (d, 1H), 7.04 (d, 1H), 7.39 (dd, 1H), 7.64 (d, 1H), 8.42 (m, 1H) and 8.53 (dd, 1H).

reactant | 3-amino-5-bromo-benzotrifluoride | 5 mmol, 1.12 g | NC=1C=C(C=C(C1)Br)C(F)(F)F | C7H5BrF3N
reactant | 3-(tri-n-butylstannyl)pyridine | 5.4 mmol, 2.0 g | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
reactant | sodium hydroxide | 0.1 M, 100 mL | [OH-].[Na+]
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Tetrakis(triphenylphosphine)-palladium (0) | 1.0 mmol, 1.16 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(3-Pyridinyl)-3-(trifluoromethyl)benzenamine | N1=CC(=CC=C1)C=1C=C(C=C(C1)N)C(F)(F)F | C12H9F3N2
